US06402037B1
Preparation of trans-4-[p-(N-ethyl-N-hydroxyethylamino)styryl]-N-hydroxyethylpyridinium iodide (“dye3”).
Following the procedure of Example 6, equimolar amounts of 4-N-ethyl-N-hydroxyethylamino)benzaldehyde, prepared according to Example 2, and 4-methyl-N-(2-hydroxyethyl)pyridinium iodide, prepared according to Example 4, were reacted in ethanol at reflux, overnight. Upon cooling, dye3 precipitated as a red solid and was collected by filtration, washed, and dried. Yield: 67%. 1H-NMR (DMSO)-d6): δ 1.0 (t, 3H), 3.3 (q, 2H), 3.40 (q, 2H), 3.50 (t, 2H), 3.80 (q, 2H), 4.40 (t, 2H), 4.70 (t, 1H), 5.2 (t, 1H), 6.7 (d, 2H), 7.1 (d, 1H), 7.80 (d, 2H), 7.90 (d, 1H), 8.10 (d, 2H), 8.70 (d, 2H) ppm. The elements analy. calcd. for C19H25IN2O2: C, 51.8; H, 5.7; N, 6.4; Found: C, 51.5; H, 5.7; N, 7.1. Td 270° C.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-methyl-N-(2-hydroxyethyl)pyridinium iodide | [I-].CC1=CC=[N+](C=C1)CCO
solvent | ethanol | C(C)O | C2H6O
product | trans-4-[p-(N-ethyl-N-hydroxyethylamino)styryl]-N-hydroxyethylpyridinium iodide | Yield: 67% | [I-].C(C)N(CCO)C1=CC=C(/C=C/C2=CC=[N+](C=C2)CCO)C=C1 | InChI=1S/C19H25N2O2.HI/c1-2-21(14-16-23)19-7-5-17(6-8-19)3-4-18-9-11-20(12-10-18)13-15-22;/h3-12,22-23H,2,13-16H2,1H3;1H/q+1;/p-1
